US04243406
A portion of the 5-(3'-trifluoromethylphenyl)-4-isoxazolecarboxylic acid (2.5 g.; 0.01 mol.) in 25 ml. of ethanol and 2 ml. of sulfuric acid were heated at reflux for 4 hours. The reaction mixture was cooled, concentrated to one-half its initial volume, then diluted with 175 ml. of methylene chloride. The organic solution was washed with water, sodium bicarbonate, again with water, dried over magnesium sulfate, filtered and concentrated to give an oil. The oil was distilled through a Vigreux column to yield ethyl-5-(3'-trifluoromethylphenyl)-4-isoxazolecarboxylate (2.2 g.; 80% yield) as a colorless oil (b.p.=88°-90° C. at 0.15 torr.) having the following analysis:

reactant | 5-(3'-trifluoromethylphenyl)-4-isoxazolecarboxylic acid | 0.01 mol, 2.5 g | FC(C=1C=C(C=CC1)C1=C(C=NO1)C(=O)O)(F)F | C11H6F3NO3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | C(C)O | C2H6O
product | ethyl-5-(3'-trifluoromethylphenyl)-4-isoxazolecarboxylate | 2.2 g, 80% yield | C(C)OC(=O)C=1C=NOC1C1=CC(=CC=C1)C(F)(F)F | C13H10F3NO3
